US04386099
N-Cyclohexyl-N'-[4-(imidazol-4-yl)-phenyl]-formamidine
A mixture of 1.59 gm of 4-(p-aminophenyl)-1-H-imidazole, 1.2 gm of cyclohexyl isonitrile, and 0.99 gm of CuCl was heated at 150° C. for three hours. The thick reaction mixture was extracted with methanol. The methanol solution, after treatment with charcoal, was evaporated to dryness and extracted with ethyl acetate and 10% hydrochloric acid. The acid solution was adjusted to pH 7.5 with 17% Na2CO3 and extracted with ethyl acetate. The organic solution was evaporated to dryness. The substance remaining after recrystallization from acetone comprised 0.25 gm of the desired product.

reactant | 4-(p-aminophenyl)-1-H-imidazole | 1.59 gm | NC1=CC=C(C=C1)C=1N=CNC1 | C9H9N3
reactant | cyclohexyl isonitrile | 1.2 gm | C1(CCCCC1)[N+]#[C-] | C7H11N
catalyst | CuCl | 0.99 gm | Cl[Cu]
product | N-Cyclohexyl-N'-[4-(imidazol-4-yl)-phenyl]-formamidine | C1(CCCCC1)NC=NC1=CC=C(C=C1)C=1N=CNC1 | C16H20N4
